US05082847
(A) Cyclopropylmethyl (1-phenylmethyl-4-piperidyl)carbamate
A solution of 4-imidazolylcarbonylamino-1-phenylmethylpiperidine (10 g, 0.035 mol), from Preparation 2, in dioxane (100 mL) was added to cyclopropanemethanol (2.42 g, 0.035 mol), then heated overnight at 80°-100° C. with stirring. The reaction mixture was allowed to return to room temperature and the dioxane evaporated under reduced pressure, and the residue was flash-chromatographed using ethyl acetate/heptane (50:50) as eluent. 9.5 g of cyclopropylmethyl (1-phenylmethyl-4-piperidyl)carbamate, m.p. 70°-72° C., was recovered and used in the next step without further purification.

reactant | 4-imidazolylcarbonylamino-1-phenylmethylpiperidine | 0.035 mol, 10 g | N1C(=NC=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C16H20N4O
reactant | cyclopropanemethanol | 0.035 mol, 2.42 g | C1(CC1)CO | C4H8O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | Cyclopropylmethyl (1-phenylmethyl-4-piperidyl)carbamate | C1(=CC=CC=C1)CN1CCC(CC1)NC(OCC1CC1)=O | C17H24N2O2
